US07557114B2
(b) 5-(1,1-Dioxo-1-thiomorpholin-4-yl)-2,3-dihydro-1H-isoindole hydrochloride
Prepared in analogy to Example A3(e) from 5-(1,1-dioxo-1lambda*6*-thiomorpholin-4-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester and hydrochloric acid. Brown solid. MS (m/e): 253.1 ([M+H]+, 100%).

reactant | 5-(1,1-dioxo-1lambda*6*-thiomorpholin-4-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)N1CCS(CC1)(=O)=O | C17H24N2O4S
reactant | hydrochloric acid | Cl | ClH
product | 5-(1,1-Dioxo-1-thiomorpholin-4-yl)-2,3-dihydro-1H-isoindole hydrochloride | Cl.O=S1(CCN(CC1)C=1C=C2CNCC2=CC1)=O | InChI=1S/C12H16N2O2S.ClH/c15-17(16)5-3-14(4-6-17)12-2-1-10-8-13-9-11(10)7-12;/h1-2,7,13H,3-6,8-9H2;1H
